* source FLYBACK
X_D3         N22461 N22631 Zener_parameterized PARAMS: VZT=25 RSF=100m
R_R5         N22801 N22795  1 TC=0,0 
R_R8         N23545 N22461  150k TC=0,0 
D_D1         N22377 N22393 SBR1U400P1 
R_R9         N23944 N22393  1Meg TC=0,0 
C_C4         0 N23087  1u  TC=0,0 
R_R1         0 N22393  9k TC=0,0 
C_C5         N23433 0  20n  TC=0,0 
L_L1         N22615 N22705  2.34u  
R_R10         0 N23944  3.9k TC=0,0 
R_R6         N22387 N22377  800 TC=0,0 
L_L2         0 N22637  150u  
R_R2         N22615 N22461  0.013 TC=0,0 
X_U2         N22705 N22801 N22959 DMT6030LFCL
R_R7         N22959 0  3m TC=0,0 
R_R3         N22637 N22473  0.818 TC=0,0 
C_C1         0 N22393  100n  TC=0,0 
X_U1         0 N22461 N23545 N23944 N23433 N22795 N23087 N24507 0 N22985 0
+  TPS40210-Q1_TRANS
Kn_K1         L_L1 L_L2     1
C_C3         N22393 N22387  30p  TC=0,0 
C_C6         0 N23545  470p  TC=0,0 
D_D2         N22705 N22631 BAS70 
L_L3         N22473 N22377  6u  
R_R11         N23944 N24514  150k TC=0,0 
C_C7         N24507 N24514  3n  TC=0,0 
V_V2         N22461 0  
+PWL 0 0 200u 5 
R_R12         N22959 N22985  1k TC=0,0 
C_C8         N22985 0  150p  TC=0,0 
